US05063238
4-Ethyl-5-(2-pyridyl)-2(3H)-oxazolone
Potassium cyanate (35.4 g, 0.44 mol) was added to a solution of 2-hydroxy-1-(2-pyridyl)butan-1-one (31 g, 0.15 mol) in 250 ml of 2N HCl diluted with 300 ml of water. After 1 hour the acidity was adjusted (pH=1) with concentrated hydrochloric acid and then allowed to stir overnight. The mixture was made basic by addition of aqueous sodium bicarbonate. The resulting gummy precipitate was chromatographed on silca gel and recrystallized twice from 50% aqueous ethanol to give the title compound, m.p. 196°-197° C. (dec.).

reactant | Potassium cyanate | 0.44 mol, 35.4 g | [O-]C#N.[K+]
reactant | 2-hydroxy-1-(2-pyridyl)butan-1-one | 0.15 mol, 31 g | OC(C(=O)C1=NC=CC=C1)CC | C9H11NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 2N, 250 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 4-Ethyl-5-(2-pyridyl)-2(3H)-oxazolone | C(C)C=1NC(OC1C1=NC=CC=C1)=O | C10H10N2O2
